US05710336
5,6-Dimethoxy-2-methylamino-1-tetralone hydrochloride
12.5 g of anhydrous aluminium chloride (0.094 mole) in 200 ml of methylene chloride are placed into a 3 l round-bottomed flask, under nitrogen atmosphere, cooling to 0° C., then 12.5 g of 4-[2-(2,3-Dimethoxyphenyl)-ethyl]-N-methyl -2,5-oxazolidindione dissolved in 200 ml of methylene chloride are added in about 10 minutes, keeping T<10° C. The mixture is stirred for 30 minutes at T<10° C., then for 1 hour a room temperature. The mixture is cooled again at 0° C. and 200 ml of water are dropped therein, keeping T<20° C., then the mixture is stirred at room temperature for about 1 hour and the organic phase is separated and extracted with water (3×400 ml). The combined aqueous phases are slowly alkalinized with 400 ml of a 20% KHCO3 solution and extracted with 3×400 ml of chloroform. The organic phase is then dried over sodium sulphate, filtered, markedly acidified with methanolic HCl (1M) and evaporated to dryness to obtain a waxy compound, which is taken up into 150 ml of acetone a 50° C., stirred for one hour under stirring and left to stand overnight, then is filtered and dried under vacuum at room temperature. Yield: 8.2 g, 67% (moles); TLC: methylene chloride/methanol, 90/10; Rf=0.35; M.p.=208°-209° C.

reactant | aluminium chloride | 0.094 mole, 12.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-[2-(2,3-Dimethoxyphenyl)-ethyl]-N-methyl -2,5-oxazolidindione | 12.5 g | COC1=C(C=CC=C1OC)CCC1N(C(OC1=O)=O)C | C14H17NO5
reactant | water | 200 ml | O | H2O
reactant | acetone | 150 ml | CC(=O)C | C3H6O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 5,6-Dimethoxy-2-methylamino-1-tetralone hydrochloride | Cl.COC1=C2CCC(C(C2=CC=C1OC)=O)NC | InChI=1S/C13H17NO3.ClH/c1-14-10-6-4-9-8(12(10)15)5-7-11(16-2)13(9)17-3;/h5,7,10,14H,4,6H2,1-3H3;1H
